US05821246
Using an analogous procedure to that described in Example 1 except that the reaction mixture was heated to reflux for 16 hours, 4-amino-2-chlorophenyl 1-methylimidazol-2-yl sulphide was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 4-[3-chloro-4-(1-methylimidazol-2-ylthio)anilino]-6,7-dimethoxyquinazoline dihydrochloride salt in 71% yield, m.p. 244°-246° C.;

reactant | 4-amino-2-chlorophenyl 1-methylimidazol-2-yl sulphide | CN1C(=NC=C1)SC1=C(C=C(C=C1)N)Cl | C10H10ClN3S
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 4-[3-chloro-4-(1-methylimidazol-2-ylthio)anilino]-6,7-dimethoxyquinazoline dihydrochloride salt | 71% yield | Cl.Cl.ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1SC=1N(C=CN1)C | InChI=1S/C20H18ClN5O2S.2ClH/c1-26-7-6-22-20(26)29-18-5-4-12(8-14(18)21)25-19-13-9-16(27-2)17(28-3)10-15(13)23-11-24-19;;/h4-11H,1-3H3,(H,23,24,25);2*1H
